US05273999
A mixture of 0.8 g (3.88 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, 1.6 g (3.88 mmol) of rac-6-acetyl-7-[[5-[(methylsulfonyl)oxy]pentyl]oxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid methyl ester, 0.78 g (5.65 mmol) of anhydrous potassium carbonate, 0.082 g of tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1), and 20 mL of toluene was stirred and refluxed for 6 hr. After being cooled, the reaction mixture was diluted with ether and toluene and filtered with suction. The solids were washed with more toluene and ether and then the filtrate and washes were combined and concentrated in vacuo. The residue was dissolved in 1:1 ether-dichloromethane and washed with water and brine. Completion of the usual work-up afforded a solid residue which was purified by flash chromatography, eluting with 1:1 hexane-ethyl acetate. There was obtained 1.85 g (91%) of rac-6-acetyl-7-[5-[(3,4-dihydro-4-oxo- 8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid methyl ester as a solid, mp 131°-133° C. This material was saponified using the procedure described in example 8 giving rac-6-acetyl-7-[5-[3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid as an off-white solid, mp 148°-151° C., in 38.4% yield, after recrystallization from hexane ethyl acetate.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 3.88 mmol, 0.8 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | rac-6-acetyl-7-[[5-[(methylsulfonyl)oxy]pentyl]oxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid methyl ester | 3.88 mmol, 1.6 g | COC(=O)C1OC2=C(CC1)C=C(C(=C2)OCCCCCOS(=O)(=O)C)C(C)=O | C19H26O8S
reactant | potassium carbonate | 5.65 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris[2-(2-methoxyethoxy)ethyl]amine | 0.082 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | rac-6-acetyl-7-[5-[(3,4-dihydro-4-oxo- 8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid methyl ester | 1.85 g, 91% | COC(=O)C1OC2=C(CC1)C=C(C(=C2)OCCCCCOC2=C(C1=C(C(CCO1)=O)C=C2)CCC)C(C)=O | C30H36O8
